US06420364B1
2-{[Acetylimino-(4-methoxy-phenyl)-methyl]-amino}-N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide (Method E)
2-Chloro-N-methylpyridinium iodide (660 mg, 2.58 mmol), was added to a solution of N-(4-methoxy-thiobenzoyl)acetamide (420 mg, 2.01 mmol), 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt (730 mg, 2.00 mmol), and N,N-diisopropylethylamine (1.05 mL, 6.02 mmol) in dichloromethane (8.0 mL). The reaction mixture was stirred at room temperature for 2 h, then diluted with dichloromethane (100 mL)and washed with 2×150 mL of saturated sodium bicarbonate. The organic phase was dried (MgSO4) and concentrated. The resulting residue was chromatographed over 100 g of flash silica first using EtOAc, then dichloromethane/methanol 9:1 as the eluant to provide the desired product as an off white solid (377 mg, 40%). 1H NMR (400 MHz, DMSO-d6) δ 0.70-0.90 (m, 2H), 1.00-1.30 (m, 4H), 1.35-1.65 (m, 8H), 1.72 (s, 3H), 1.85-2.20 (m, 6H), 2.48-2.60 (m, 1H), 3.78 (s, 3H), 4.20-4.35 (m, 1H), 6.95-6.99 (m, 2H), 7.33 (d, J=8.4 Hz, 1H), 7.72 (d, J=8.4 Hz, 1H). MS, m/z 468=M+1.

reactant | 2-Chloro-N-methylpyridinium iodide | 2.58 mmol, 660 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | N-(4-methoxy-thiobenzoyl)acetamide | 2.01 mmol, 420 mg | COC1=CC=C(C(=S)NC(C)=O)C=C1 | C10H11NO2S
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | 2.00 mmol, 730 mg | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
reactant | N,N-diisopropylethylamine | 6.02 mmol, 1.05 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-{[Acetylimino-(4-methoxy-phenyl)-methyl]-amino}-N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide | C(C)(=O)N=C(C1=CC=C(C=C1)OC)NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1 | C26H37N5O3
